US09447106B2
To a solution of N-(2-(3-cyano-2-(4-hydroxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-7-yl)phenyl)-2,2,2-trifluoroacetamide (42.7 mg, 0.10 mmol) in DCM (3 mL) was added 4-fluorophenylboronic acid (17 mg, 0.12 mmol), TEA (21 mg, 0.2 mmol) and Cu(OAc)2 (22 mg, 0.12 mmol). After stirring at RT for 16 hr, the mixture was purified by Pre-TLC (DCM/CH3OH=20/1) to afford 30 mg (57%) of N-(2-(3-cyano-2-(4-(4-fluorophenoxyl)phenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-7-yl)phenyl)-2,2,2-trifluoroacetamide as a colorless oil. 1H NMR (400 MHz, DMSO-d6) δ 11.33 (s, 1H), 7.90-7.77 (m, 3H), 7.52-7.37 (m, 3H), 7.34-7.27 (m, 2H), 7.22-7.14 (m, 2H), 7.10 (d, J=8.8 Hz, 2H), 6.80 (d, J=6.4 Hz, 1H), 5.80-5.75 (m, 1H), 3.37-3.28 (m, 1H), 3.09-2.95 (m, 1H), 2.50-2.37 (m, 1H), 2.10-1.95 (m, 1H). MS (ESI) m/e [M+1]+ 521.8.

reactant | N-(2-(3-cyano-2-(4-hydroxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-7-yl)phenyl)-2,2,2-trifluoroacetamide | 0.10 mmol, 42.7 mg | C(#N)C=1C(=NN2C1NCCC2C2=C(C=CC=C2)NC(C(F)(F)F)=O)C2=CC=C(C=C2)O | C21H16F3N5O2
reactant | 4-fluorophenylboronic acid | 0.12 mmol, 17 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | 0.12 mmol, 22 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | N-(2-(3-cyano-2-(4-(4-fluorophenoxyl)phenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-7-yl)phenyl)-2,2,2-trifluoroacetamide | 30 mg, 57% | C(#N)C=1C(=NN2C1NCCC2C2=C(C=CC=C2)NC(C(F)(F)F)=O)C2=CC=C(C=C2)OC2=CC=C(C=C2)F | C27H19F4N5O2
